### PR TITLE
normal_prob cont./reproductive property

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This PR provides a proof of the continuity of `normal_prob` and of the reproductive
property of normal distribution:
Screenshot 2026-04-27 at 11 00 37

This is taken from the PR #1712 
and it relies on the `field` tactic (fyi: @proux01 )

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/probability_theory/normal_distribution.v [hunk 1]
```diff
@@ -254,4 +328,534 @@ apply: ge0_le_integral => //=.
...
+- by apply/measurable_EFinP; exact: measurable_normal_pdf.
+- move=> /= E _ mE.
+  by rewrite -Radon_Nikodym_integral//=; exact: normal_prob_dominates.
+Qed.
+
+Local Close Scope charge_scope.
+
 End normal_probability.
+
+Section ge0_integration_by_substitution_shift.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v]: I think it's better to move this section to ftc.v.

File: theories/probability_theory/normal_distribution.v [hunk 2]
```diff
@@ -51,45 +67,50 @@ Qed.
...
-Let normal_pdf0 m s x : R := normal_peak s * normal_fun m s x.
+#[deprecated(since="mathcomp-analysis 1.17.0", note="to be renamed to `normal_fun_center`")]
+Lemma normal_fun_center_new m s x :
+  normal_fun (center m x) s (center m x) = normal_fun m s m.
+Proof. by rewrite [in RHS]/normal_fun subrr -(subrr (x - m)). Qed.
 
-Definition normal_pdf m s x :=
-  if s == 0 then \1_`[0, 1] x else normal_pdf0 m s x.
+Lemma normal_fun_shift m s x :
+  normal_fun (shift m x) s (shift m x) = normal_fun m s m.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v]: this can be generalized.
```
Lemma normal_fun_shift m s x t :
  normal_fun (shift m t) s (shift x t) = normal_fun m s x.
Proof. by rewrite [in LHS]/normal_fun/= (addrC t x) addrKA. Qed.
```

File: theories/probability_theory/normal_distribution.v [hunk 3]
```diff
@@ -51,45 +67,50 @@ Qed.
 Lemma normal_fun_ge0 m s x : 0 <= normal_fun m s x.
 Proof. exact: expR_ge0. Qed.
 
-Lemma normal_fun_center m s : normal_fun m s = normal_fun 0 s \o center m.
+Lemma normal_fun_center0 m s : normal_fun m s = normal_fun 0 s \o center m.
 Proof. by apply/funext => x/=; rewrite /normal_fun/= subr0. Qed.
 
-Definition normal_peak s := (sqrtr (s ^+ 2 * pi *+ 2))^-1.
+Lemma normal_funN m s : normal_fun (- m) s (- m) = normal_fun m s m.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v]: This lemma can be generalized.
```
Lemma normal_funN m s x : normal_fun (- m) s (- x) = normal_fun m s x.
Proof. by rewrite /normal_fun -opprD sqrrN. Qed.
```

File: theories/probability_theory/normal_distribution.v [hunk 4]
```diff
@@ -51,45 +67,50 @@ Qed.
...
-move=> s0; rewrite invr_gt0// sqrtr_gt0.
-by rewrite mulrn_wgt0// mulr_gt0 ?pi_gt0// exprn_even_gt0/=.
-Qed.
+Lemma normal_fun0abs s x : normal_fun 0 s `|x| = normal_fun 0 s x.
+Proof. by rewrite /normal_fun 2!subr0 real_normK// num_real. Qed.
 
-Let normal_pdf0 m s x : R := normal_peak s * normal_fun m s x.
+#[deprecated(since="mathcomp-analysis 1.17.0", note="to be renamed to `normal_fun_center`")]
+Lemma normal_fun_center_new m s x :
+  normal_fun (center m x) s (center m x) = normal_fun m s m.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v]: this can be generalized and have simple proof using `normal_fun_shift`.
```
Lemma normal_fun_center_new m s x t:
  normal_fun (center m t) s (center x t) = normal_fun m s x.
Proof. by rewrite normal_fun_shift normal_funN. Qed.
```

File: theories/probability_theory/normal_distribution.v [hunk 5]
```diff
@@ -100,21 +121,74 @@ apply: (cvg_comp (fun x => x - m) (fun x => x ^+ 2)).
...
+Lemma normal_pdf0N m s : normal_pdf0 (- m) s (- m) = normal_pdf0 m s m.
+Proof. by rewrite /normal_pdf0 normal_funN. Qed.
+
+Lemma normal_pdf0_center m s x :
+  normal_pdf0 (center m x) s (center m x) = normal_pdf0 m s m.
+Proof. by rewrite /normal_pdf0 normal_fun_center_new. Qed.
+
+Lemma normal_pdf0_shift m s x :
+  normal_pdf0 (shift m x) s (shift m x) = normal_pdf0 m s m.
+Proof. by rewrite /normal_pdf0 normal_fun_shift. Qed.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v]: these lemmas also can be generalized.
```
Lemma normal_pdf0_center m s x t :
  normal_pdf0 (center m t) s (center x t) = normal_pdf0 m s x.
Proof. by rewrite /normal_pdf0 normal_fun_center_new. Qed.

Lemma normal_pdf0_shift m s x t :
  normal_pdf0 (shift m t) s (shift x t) = normal_pdf0 m s x.
Proof. by rewrite /normal_pdf0 normal_fun_shift. Qed.
```

**Review by IshiguroYoshihiro — APPROVED** [review]
It looks good for me.
I think there is some room for generalization on auxiliary lemmas, but I don't think it need to block this PR.

File: theories/probability_theory/normal_distribution.v [hunk 6]
```diff
@@ -254,4 +328,534 @@ apply: ge0_le_integral => //=.
...
+  rewrite -(@fineK _ (_ x _ _)).
+    by rewrite fin_num_measure.
+  over.
+apply/measurable_EFinP; apply: continuous_measurable_fun.
+exact: normal_prob_continuous.
+Qed.
+
+End normal_prob_lemmas.
+
+Section emeasurable_bounded_integrable.
```
Comment (IshiguroYoshihiro) [inline theories/probability_theory/normal_distribution.v:618]: I think that this section have to be moved to lebesgue_integral_theory/lebesgue_integrable.v.

**Comment by affeldt-aist** [comment]
@IshiguroYoshihiro Thank you very much for the comments!
